US07576099B2
4-(3,3-Dimethyl-but-1-ynyl)-2-fluoro-benzoic acid
Methyl 2-fluoro-4-(3,3-dimethylbut-1-ynyl)benzoate (8.2 g, 0.035 mol) was suspended in a 3:1 mixture of H2O and methanol to which was added lithium hydroxide (2.5 g, 0.10 mol) all at once and the mixture was agitated over-night at ambient temperature. The mixture was then concentrated to ¾ the volume and acidified with 1N HCl until the pH read just acidic. The white precipitate was filtered, washed with water and vacuum dried at 80° C. for several hours. m/z=218.9 (M−1).

reactant | Methyl 2-fluoro-4-(3,3-dimethylbut-1-ynyl)benzoate | 0.035 mol, 8.2 g | FC1=C(C(=O)OC)C=CC(=C1)C#CC(C)(C)C | C14H15FO2
reactant | H2O | O | H2O
reactant | lithium hydroxide | 0.10 mol, 2.5 g | [OH-].[Li+]
solvent | methanol | CO | CH4O
product | 4-(3,3-Dimethyl-but-1-ynyl)-2-fluoro-benzoic acid | CC(C#CC1=CC(=C(C(=O)O)C=C1)F)(C)C | C13H13FO2
